US08580798B2
4-{4-[3-(6-Phenylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide
The title compound was prepared in the same manner as described for 4-{-4-[3-(6-tert-butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide, replacing 6-amino-4-tert-butylpyrimidine for 6-amino-4-phenylpyrimidine. 1H-NMR (DMSO-d6) δ 10.18 (broad s, 1H), 10.04 (broad s, 1H), 9.91 (broad s, 1H), 9.85 (broad s, 1H), 8.78 (d, J=1.2 Hz, 1H), 8.45 (d, J=5.7 Hz, 1H), 8.15 (s, 1H), 8.06 to 8.02 (m, 2H), 7.94 (d, J=2.7 Hz, 1H), 7.64 (d, J=8.7 Hz, 2H), 7.54 to 7.52 (m, 3H), 7.20 (d, J=8.7 Hz, 2H), 7.12 (dd, J=5.7, 3.0 Hz, 1H); LC-MS m/z 443 [M+H]+, RT=3.19 min.

reactant | 4-{-4-[3-(6-tert-butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide | C(C)(C)(C)C1=CC(=NC=N1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(N)=S)C=C1)=O | C21H22N6O2S
reactant | 6-amino-4-phenylpyrimidine | NC1=CC(=NC=N1)C1=CC=CC=C1 | C10H9N3
product | 4-{4-[3-(6-Phenylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide | C1(=CC=CC=C1)C1=CC(=NC=N1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(N)=S)C=C1)=O | C23H18N6O2S
